US07312241B2
4-bromo-2-ethoxy-1-methoxybenzene (0.66 g, 2.86 mmol), n-butyl lithium (1.14 ml, 2.86 mmol), and 3,5-dimethoxybenzaldehyde (0.43 g, 2.60 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash colurn chromatography (20% EtOAc in hexane gradient to 50% EtOAc in hexane in about 40 min.) to give (3,5-dimethoxy-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol as an off-white solid (0.66 g, 80%): 1HNMR (CDCl3) δ 6.92-6.80 (m, 3H, Ar), 6.54 (d, J=2 Hz, 2H, Ar), 6.36 (t, J=2 Hz, 1H, Ar), 5.70 (d, J=3 Hz, 1H, CHOH), 4.07 (q, J=6 Hz, 2H, CH2CH3), 3.85 (s, 3H, OCH3), 3.76 (s, 6H, 2OCH3), 2.19 (d, J=3 Hz, 1H, OH), 1.44 (t, J=7 Hz, 3H, CH2CH3). The product was carried over to the next step.

reactant | 4-bromo-2-ethoxy-1-methoxybenzene | 2.86 mmol, 0.66 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyl lithium | 2.86 mmol, 1.14 ml | C(CCC)[Li]
reactant | 3,5-dimethoxybenzaldehyde | 2.60 mmol, 0.43 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
product | (3,5-dimethoxy-phenyl)-(3-ethoxy-4-methoxy-phenyl)-methanol | 0.66 g, 80% | COC=1C=C(C=C(C1)OC)C(O)C1=CC(=C(C=C1)OC)OCC | C18H22O5
